US05569655
A mixture of imidazole (15.4 g, 0.226 mol) and 2-bromomethylnaphthalene (22 g, 0.0995 mol) in 200 ml of methylene chloride was stirred at room temperature overnight. The mixture was stirred with 200 ml of water, the organic layer was washed with water (2×200 ml), and stirred with 30 ml of conc. HCl and 200 ml of water. After filtration for the removal of the solid, the methylene chloride layer was discarded, and the aqueous layer was extracted with 200 ml of ether. The above aqueous layer was basified with 3N NaOH solution, extracted with methylene chloride, and the organic layer was dried over magnesium sulfate. The above organic solution was concentrated in vacuo to afford 13.65 g of 1-(2-naphthylmethyl)imidazole, m.p. 87°-88° C.

reactant | imidazole | 0.226 mol, 15.4 g | N1C=NC=C1 | C3H4N2
reactant | 2-bromomethylnaphthalene | 0.0995 mol, 22 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | water | 200 ml | O | H2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-naphthylmethyl)imidazole | 13.65 g | C1=C(C=CC2=CC=CC=C12)CN1C=NC=C1 | C14H12N2
